US05082777
A 3-liter reaction vessel was filled with 2250 ml of 5 percent sodium nicotinate solution (pH 6.5) and was heated to 30° C. A suspension of Achromobacter xylosoxydans DSM 2783 cells in 120 ml of water was added and the reaction mixture was aerated intensively while stirring it well. The pH, the temperature and the oxygen concentration in the reaction mixture were measured and regulated continuously. After 7 hours, the concentration of the dissolved oxygen rose. At this point, the reaction was completed. The reaction suspension was centrifuged off and the cells in the sediment were used for the next charge. The clear supernatant was brought to pH 1.5 with concentrated sulfuric acid and the 6-hydroxynicotinic acid obtained was drained off and dried. 121 g of white product was obtained which, according to HPLC analysis, contained 98.6 percent of 6-hydroxynicotinic acid. This corresponded to a 6-hydroxynicotinic acid yield of 93.7 percent, related to the nicotinic acid used.

reactant | sodium nicotinate | 2250 ml, pH 6.5 | C(C1=CN=CC=C1)(=O)[O-].[Na+]
reactant | water | 120 ml | O | H2O
product | 6-hydroxynicotinic acid | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
